US05843905
The 4-(N,N-dimethylaminomethyl) benzoyl chloride was prepared by reacting the acid with excess oxalyl chloride for 1 hr at 25° C. The 4-(N,N-dimethylaminomethyl) benzoic acid was in turn prepared from methyl 4-aminomethylbenzoate via reductive alkylation (CH2O, Na(OAc)3 BH as in J. Org. Chem., 1972, 37, 1673) followed by hydrolysis using 10% aqueous NaOH.

reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-(N,N-dimethylaminomethyl) benzoic acid | CN(C)CC1=CC=C(C(=O)O)C=C1 | C10H13NO2
reactant | methyl 4-aminomethylbenzoate | NCC1=CC=C(C(=O)OC)C=C1 | C9H11NO2
reactant | CH2O | C=O | CH2O
reactant | NaOH | [OH-].[Na+]
product | 4-(N,N-dimethylaminomethyl) benzoyl chloride | CN(C)CC1=CC=C(C(=O)Cl)C=C1 | C10H12ClNO
